US07135472B2
Preparation of (S)-1-(3-[1, 2,4]triazol-1-yl-phenyl)-ethylamine
To a solution of (S)-1-(3-bromo-phenyl)-ethylamine (1.5 g, 7.5 mmol) and 1,2,4-triazole (1.04 g, 15 mmol) in N-methylpyrrolidinone (10 mL) in a quartz tube were added potassium carbonate (2.1 g, 15 mmol) and copper (1) iodide (143 mg, 0.75 mmol). The reaction mixture was heated at 195° C. for 5 h in a Mars 5 microwave oven (600 W), cooled down to room temperature and filtered. The crude product was purified by flash chromatography (10% MeOH/89% EtOAC/1% triethylamine) to provide the title compound (504 mg, 36% yield) as a brown oil.

reactant | (S)-1-(3-bromo-phenyl)-ethylamine | 7.5 mmol, 1.5 g | BrC=1C=C(C=CC1)[C@H](C)N | C8H10BrN
reactant | 1,2,4-triazole | 15 mmol, 1.04 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper (1) iodide | 0.75 mmol, 143 mg | [Cu]I
product | (S)-1-(3-[1, 2,4]triazol-1-yl-phenyl)-ethylamine | 504 mg, 36% yield | N1(N=CN=C1)C=1C=C(C=CC1)[C@H](C)N | C10H12N4
